US07192982B2
3-(4-Benzyloxy-2-chloro-phenyl)-2-methoxy-propionic acid ethyl ester
A mixture of 3-(4-Benzyloxy-2-chloro-phenyl)-3-hydroxy-2-methoxy-propionic acid ethyl ester (1 eq), Mesylchloride (1 eq) triethylamine (4 eq) and a catalytic amount of DMAP (0.1 eq) in dichloromethane was stirred at room temperature over night. The reaction mixture was diluted with ether and washed with HCl 1N. Dried and concentrated in vacuo to give a residue which was chromatographed in silica gel to yield a compound which was dissolved in methanol was treated with Mg (20 eq) and stirred until gas evolution was observed. Cooled to 0° C. and stirred for 4 hours. The solvent was removed and the residue reconstituted in ether washed with HCl 1N and brine and concentrated to give the title product.

reactant | 3-(4-Benzyloxy-2-chloro-phenyl)-3-hydroxy-2-methoxy-propionic acid ethyl ester | 1 eq | C(C)OC(C(C(O)C1=C(C=C(C=C1)OCC1=CC=CC=C1)Cl)OC)=O | C19H21ClO5
reactant | Mesylchloride | 1 eq | S(=O)(=O)(C)Cl | CH3ClO2S
catalyst | DMAP | 0.1 eq | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | ether | CCOCC | C4H10O
solvent | methanol | CO | CH4O
product | 3-(4-Benzyloxy-2-chloro-phenyl)-2-methoxy-propionic acid ethyl ester | C(C)OC(C(CC1=C(C=C(C=C1)OCC1=CC=CC=C1)Cl)OC)=O | C19H21ClO4
